US06245761B1
Preparation of 4-(2-fluoro-5-bromobenzyloxy)-1-methoxybut-2-yne
A solution of 4-(2-fluoro-5-bromobenzyloxy)-but-2-ynyl alcohol (1.07 g, 3.92 mmol) in tetrahydrofuran (26 ml) was cooled to −40° C. and then treated with potassium t-butoxide (4.31 ml of a 1 M solution in tetrahydrofuran, 4.31 mmol). The resulting dark orange solution was stirred for thirty minutes, cooled to −78° C. and treated with methyl iodide (0.49 ml, 7.84 mmol). The reaction was warmed to 0° C. and stirred for 1.5 hours. The reaction mixture was then partitioned between methylene chloride and saturated sodium bicarbonate. The organic fraction was dried over sodium sulfate, and the solvents were removed in vacuo. The desired title intermediate was further purified by high performance liquid chromatography to yield 790 mg (70%) as a clear oil.

reactant | 4-(2-fluoro-5-bromobenzyloxy)-but-2-ynyl alcohol | 3.92 mmol, 1.07 g | FC1=C(COCC#CCO)C=C(C=C1)Br | C11H10BrFO2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | methyl iodide | 7.84 mmol, 0.49 ml | CI | CH3I
solvent | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
product | 4-(2-fluoro-5-bromobenzyloxy)-1-methoxybut-2-yne | FC1=C(COCC#CCOC)C=C(C=C1)Br | C12H12BrFO2
